US07531547B2
To a solution of N-(3,5-Dimethoxy-phenyl)-2,2,2-trifluoro-acetamide (31.8 g, 130 mmol) in anhydrous dichloroethane (450 mL), cooled in an ice bath, was added a solution of tin (IV) chloride (29.9 mL, 260 mmol dissolved in 30 mL anhydrous dichloroethane) dropwise over 10 minutes. Acetyl chloride (9.1 mL, 130 mmol) was added slowly, maintaining the temperature of the reaction below 5° C. After stirring 3 hours at room temperature, the reaction was cooled in an ice bath. Water (300 mL) was added, maintaining the temperature of the reaction below 25° C., and the reaction was stirred at room temperature for 18 hours. The reaction mixture was extracted with dichloromethane, and the organic layer was separated, washed with water, dried over sodium sulfate, filtered and evaporated under reduced pressure. The residue was purified by silica gel column chromatography eluting with 20% to 30% hexanes/ethyl acetate to yield N-(4-Acetyl-3,5-dimethoxy-phenyl)-2,2,2-trifluoro-acetamide (4.8 g, 13%) as a white solid.

reactant | N-(3,5-Dimethoxy-phenyl)-2,2,2-trifluoro-acetamide | 130 mmol, 31.8 g | COC=1C=C(C=C(C1)OC)NC(C(F)(F)F)=O | C10H10F3NO3
reactant | tin (IV) chloride | 260 mmol, 29.9 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | Acetyl chloride | 130 mmol, 9.1 mL | C(C)(=O)Cl | C2H3ClO
reactant | Water | 300 mL | O | H2O
solvent | dichloroethane | 450 mL | ClC(C)Cl | C2H4Cl2
product | N-(4-Acetyl-3,5-dimethoxy-phenyl)-2,2,2-trifluoro-acetamide | 4.8 g, 13% | C(C)(=O)C1=C(C=C(C=C1OC)NC(C(F)(F)F)=O)OC | C12H12F3NO4
